US07615648B2
Sodium triacetoxyborohydride (2.9 g, 14 mmol, 1.4 eq) is added to a solution of isobutylamine (0.77 g, 10 mmol, 1.05 eq) and N-(tert-butoxycarbonyl)-L-prolinal (2 g, 10 mmol, 1 eq) in 1,2-dichloroethane (35 ml). After 1 hr water (25 ml) followed by 2N aqueous sodium hydroxide (25 ml) is added. The aqueous layer is separated and extracted with dichloromethane (3×50 ml). The organic layers are combined and dried over magnesium sulphate, filtered, and concentrated in vacuo giving a residue. The residue is purified by flash chromatography, eluting with 20-70% methanol in ethyl acetate to give the tert-butyl (2S)-2-[(isobutylamino)methyl]pyrrolidine-1-carboxylate (1.95 g, 76%): 1H NMR (300 MHz, CDCl3) δH: 3.69-4.07 (1H, m), 3.19-3.50 (2H, m), 2.67-2.87 (1H, m), 2.48-2.65 (1H, m), 2.35-2.47 (2H, m), 1.62-2.01 (5H, m), 1.34-1.53 (9H, m) and 0.88 (6H, d); LCMS: Rt=2.74 (6 min method) [M+H]=257.5.

reactant | Sodium triacetoxyborohydride | 14 mmol, 2.9 g, 1.4 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | isobutylamine | 10 mmol, 0.77 g, 1.05 eq | C(C(C)C)N | C4H11N
reactant | N-(tert-butoxycarbonyl)-L-prolinal | 10 mmol, 2 g, 1 eq | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
solvent | water | 25 ml | O | H2O
product | tert-butyl (2S)-2-[(isobutylamino)methyl]pyrrolidine-1-carboxylate | 1.95 g, 76% | C(C(C)C)NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C14H28N2O2
